US04596870
1-(4-Fluorophenylsulfenyl)methyl-5-chloropyrimidin-2-one
The title compound was prepared from 5-chloropyrimidin-2-one hydrochloride (10 mmol) and 4-fluoro-1-(chloromethylthio)benzene (10 mmol) in a manner similar to that described in Example 2. The reaction time was 21/2 h. Yield: 1.60 g (59%) of the N- and O-isomers in the ratio 2:1. The N-isomer was isolated by its lower solubility in methanol; m.p. 179° C. (MeOH/H2O/ isoPrOH). 1H NMR (DMSO/d6): δ 5.25 (CH2), 6.9-7.7 (Ph), 8.07 and 8.53 (H-4 and H-6, J 4 Hz). IR (KBr): 1660 cm-1 (CO). (Found: C49.80; H2.54. Calc. for C11H8ClFN2OS: C48.81; H2.98). MS [70 eV, m/z (% rel. int.]): 270/272 (4/2,M), 143/145 (100/32).

reactant | 5-chloropyrimidin-2-one hydrochloride | 10 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | 4-fluoro-1-(chloromethylthio)benzene | 10 mmol | FC1=CC=C(C=C1)SCCl | C7H6ClFS
reactant | MeOH H2O isoPrOH | CO.O.C(C)(C)O
reactant | KBr | [K+].[Br-]
solvent | methanol | CO | CH4O
product | 1-(4-Fluorophenylsulfenyl)methyl-5-chloropyrimidin-2-one | FC1=CC=C(C=C1)SCN1C(N=CC(=C1)Cl)=O | C11H8ClFN2OS
